US04686230
6. 5-Difluoromethoxy-2-[(3,4-dimethoxy-2-pyridyl)methylsulphinyl]-4,6-dimethyl-1H-benzimidazole
5 ml of a 0.2N solution of m-chloroperoxybenzoic acid in methylene chloride are added dropwise at -40° C. to a solution of 0.39 g (1 mmol) of 5-difluoromethoxy-2-[(3,4-dimethoxy-2-pyridyl)methylthio]-4,6-dimethyl-1H-benzimidazole in 20 ml of methylene chloride, and the mixture is stirred for 15 minutes. 0.5 ml of triethylamine are then added and the reaction mixture is poured into 20 ml of a 1:1 mixture of 5% sodium carbonate solution and 5% sodium thiosulphate solution. After phase separation, the aqueous phase is extracted twice more with 30 ml of methylene chloride each time, and the combined organic phases are washed with sodium carbonate solution, dried over magnesium sulphate, filtered and concentrated to 2 ml. After crystallisation from diisopropyl ether, the crystals are filtered off and dried to constant weight. This gives 0.3 g (74% of theory) of the title compound as a colourless solid of m.p. 163°-164° C. (decomposition).

reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-difluoromethoxy-2-[(3,4-dimethoxy-2-pyridyl)methylthio]-4,6-dimethyl-1H-benzimidazole | 1 mmol, 0.39 g | FC(OC1=C(C2=C(NC(=N2)SCC2=NC=CC(=C2OC)OC)C=C1C)C)F | C18H19F2N3O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 5-Difluoromethoxy-2-[(3,4-dimethoxy-2-pyridyl)methylsulphinyl]-4,6-dimethyl-1H-benzimidazole | FC(OC1=C(C2=C(NC(=N2)S(=O)CC2=NC=CC(=C2OC)OC)C=C1C)C)F | C18H19F2N3O4S
